US06528525B1
2-Butyl-3-[4-[2-(2-hydroxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid (exemplification No. 4-193 compound)
In a similar manner to that described in Example 2, ethyl 2-butyl-3-[4-[2-(2-hydroxypyridine-5-carbonylamino)ethoxy]phenyl]propionate (300 mg), which is the product of Example 49, was reacted with aqueous sodium hydroxide solution (1N, 3.00 ml) and the reaction mixture was treated to give the title compound (240 mg) as a pale yellow powder.

reactant | ethyl 2-butyl-3-[4-[2-(2-hydroxypyridine-5-carbonylamino)ethoxy]phenyl]propionate | 300 mg | C(CCC)C(C(=O)OCC)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)O | C23H30N2O5
reactant | sodium hydroxide | 1N, 3.00 ml | [OH-].[Na+]
product | 2-Butyl-3-[4-[2-(2-hydroxypyridine-5-carbonylamino)ethoxy]phenyl]propionic acid | 240 mg | C(CCC)C(C(=O)O)CC1=CC=C(C=C1)OCCNC(=O)C=1C=CC(=NC1)O | C21H26N2O5
